US05498751
In a similar manner, a mixture of 520.9 parts isooctyl alcohol, 516.6 parts methyl acrylate, 183 parts heptane, 2.4 parts dimethyltin dichloride, 0.5 parts sodium hydroxide (molar ratio 1.14:1), 1.6 parts 4-methoxyphenol and 0.6 parts hydroquinone yielded, after reaction and work up as in Example 1, 715.2 parts (97 percent yield, based on isooctyl alcohol) of isooctyl acrylate with a purity of 99.9 percent, containing no detectable tin.

reactant | isooctyl alcohol | C(CCCCC(C)C)O | C8H18O
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
reactant | dimethyltin dichloride | C[Sn](C)(Cl)Cl
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | heptane | CCCCCCC | C7H16
product | isooctyl acrylate | 97 percent yield | C(C=C)(=O)OCCCCCC(C)C | C11H20O2
